US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(oxetan-3-yl)amino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) was dissolved in a mixed liquid of pyridine (0.5 ml) and N-methylpyrrolidone (0.5 ml). A methanol solution (45%; 1.5 ml) of 3-aminooxetane was added to the resultant solution. The mixture was stirred at 70° C. for 18 hours. The reaction mixture was acidified with a 3% aqueous solution (20 ml) of citric acid, and solids formed were collected by filtration. The solids were subjected to azeotropic distillation with ethanol. Ether (5 ml) was added to the residue to conduct filtration, thereby obtaining the title compound (48 mg) as a pale yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | methanol | 1.5 ml | CO | CH4O
reactant | 3-aminooxetane | NC1COC1 | C3H7NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | N-methylpyrrolidone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(oxetan-3-yl)amino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 48 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC1COC1)F)=O)C(=O)O)F)F | C19H13ClF3N3O4
